US05306816
To a mixture of allyl (4R,5S,6S)-6-[(1R)-1-(tertbutyldimethylsilyloxy)ethyl]-4-methyl-3-methylsulfinyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (33 mg) and (2S,4S)-1-allyloxycarbonyl-2-(2-fluoroethyloxymethyl)-4-mercaptopyrrolidine (21 mg) in N,N-dimethylformamide (1.0 ml) was added diisopropylethylamine (10 mg). After stirring for 2 hours at ambient temperature, the solution was diluted with diethyl ether (10 ml) and washed with water, 1N hydrochloric acid, aqueous sodium bicarbonate solution and brine, dried, and evaporated under reduced pressure. The residue was purified by preparative thin layer chromatography [ethyl acetate-n-hexane (1:1.5, V/V)] to give allyl (4R,5S,6S)-3-[(2S,4S)-1-allyloxycarbonyl-2-(2-fluoroethyloxymethyl)pyrrolidin-4-ylthio]-6-[(1R)-1-(tert-butyldimethylsilyloxy)ethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (21 mg).

reactant | allyl (4R,5S,6S)-6-[(1R)-1-(tertbutyldimethylsilyloxy)ethyl]-4-methyl-3-methylsulfinyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 33 mg | C(C)(C)(C)[Si](O[C@H](C)[C@@H]1[C@H]2[C@H](C(=C(N2C1=O)C(=O)OCC=C)S(=O)C)C)(C)C | C20H33NO5SSi
reactant | (2S,4S)-1-allyloxycarbonyl-2-(2-fluoroethyloxymethyl)-4-mercaptopyrrolidine | 21 mg | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)S)COCCF | C11H18FNO3S
reactant | diisopropylethylamine | 10 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | allyl (4R,5S,6S)-3-[(2S,4S)-1-allyloxycarbonyl-2-(2-fluoroethyloxymethyl)pyrrolidin-4-ylthio]-6-[(1R)-1-(tert-butyldimethylsilyloxy)ethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 21 mg | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)C(=O)OCC=C)COCCF | C30H47FN2O7SSi
